US04584293
1-[7,8-Dimethoxy-2,3,4,5-tetrahydro-1H-3-benzazepin-3-yl]-3-[N-methyl-N-(6,7-dimethoxy-1,2,3,4-tetrahydronaphth-2-yl)-amino]-propane
Here, 1-[7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(6,7-dimethoxy-1,2,3,4-tetrahydronaphth-2-yl)-amino]-propane hydrochloride (1.4 g, 0.0027 mol) is added to a suspension of lithium aluminum hydride (0.24 g, 0.0062 mol) in diethyl ether (50 ml) and refluxed for 7 hours. Then water and 15% sodium hydroxide solution are added, the mixture is concentrated in vacuo and purified over silica gel (50 g) (32-63 μm) with methylene chloride and increasing amounts of ethanol (up to 15%) as eluant. Yield: 0.6 g. Mp: 92°-93° C.

reactant | 1-[7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(6,7-dimethoxy-1,2,3,4-tetrahydronaphth-2-yl)-amino]-propane hydrochloride | 0.0027 mol, 1.4 g | Cl.COC1=CC2=C(CC(N(CC2)CCCN(C2CC3=CC(=C(C=C3CC2)OC)OC)C)=O)C=C1OC
reactant | lithium aluminum hydride | 0.0062 mol, 0.24 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 1-[7,8-Dimethoxy-2,3,4,5-tetrahydro-1H-3-benzazepin-3-yl]-3-[N-methyl-N-(6,7-dimethoxy-1,2,3,4-tetrahydronaphth-2-yl)-amino]-propane | COC1=CC2=C(CCN(CC2)CCCN(C2CC3=CC(=C(C=C3CC2)OC)OC)C)C=C1OC | C28H40N2O4
